US08207177B2
Step c: 5-ethynyl-7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]-dioxin-6-yl]-4-methyl-7H-pyrrolo[2,3-d]pyrimidine
Potassium carbonate (191 mg, 1.38 mmol) was added to a solution of 7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-6-yl]-4-methyl-5-[(trimethylsilyl)ethynyl]-7H-pyrrolo[2,3-d]pyrimidine (314 mg, 0.680 mmol) in MeOH (10.0 mL), and the mixture was stirred at rt overnight. The reaction mixture was diluted with EtOAc, washed with saturated aqueous sodium bicarbonate solution, dried over MgSO4, filtered, and concentrated in vacuo to afford the title compound as an oil (215 mg, 81%). LC/MS: Rt=1.94 min, ES+ 390 (AA standard).

reactant | Potassium carbonate | 1.38 mmol, 191 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-6-yl]-4-methyl-5-[(trimethylsilyl)ethynyl]-7H-pyrrolo[2,3-d]pyrimidine | 0.680 mmol, 314 mg | COC1=CC=C(C=C1)C1OC[C@H]2[C@@H](O1)C[C@@H](C2)N2C=C(C1=C2N=CN=C1C)C#C[Si](C)(C)C | C26H31N3O3Si
solvent | MeOH | 10.0 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-ethynyl-7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]-dioxin-6-yl]-4-methyl-7H-pyrrolo[2,3-d]pyrimidine | 215 mg, 81% | C(#C)C1=CN(C=2N=CN=C(C21)C)[C@@H]2C[C@@H]1[C@@H](OC(OC1)C1=CC=C(C=C1)OC)C2 | C23H23N3O3
